US04125622
Analogously to Example 1, from maleic acid anhydride and 2-hydroxy-3-m-chlorophenoxypropane-1-thiol in the presence of diisopropylamine and the usual working up of the reaction mixture, 6-m-chlorophenoxymethyl-2-oxo-1,4-oxathiane-3-acetic acid is obtained. It is separated into two isomers using chromatographic purification:

reactant | maleic acid anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | 2-hydroxy-3-m-chlorophenoxypropane-1-thiol | OC(CS)COC1=CC(=CC=C1)Cl | C9H11ClO2S
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
product | 6-m-chlorophenoxymethyl-2-oxo-1,4-oxathiane-3-acetic acid | ClC=1C=C(OCC2CSC(C(O2)=O)CC(=O)O)C=CC1 | C13H13ClO5S
